US09061067B2
A mixture of 4-(4-bromophenyl)phenol (3.74 g, 15.0 mmol), MeCN (20 ml), ethyl 4-bromobutyrate (4.42 g, 22.7 mmol), and K2CO3 (3.12 g, 22.6 mmol) was stirred at 80° C. After 16 h water (100 ml) and 1N HCl (40 ml) were added, and the product was extracted (3×AcOEt), the combined extracts were washed with brine (2×), dried (MgSO4), and concentrated. The residue was recrystallized from EtOH (40 ml) to yield 4.35 g (80%) of 4-(4′-bromobiphenyl-4-yloxy)butyric acid ethyl ester as colorless plates.

reactant | 4-(4-bromophenyl)phenol | 15.0 mmol, 3.74 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | ethyl 4-bromobutyrate | 22.7 mmol, 4.42 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | K2CO3 | 22.6 mmol, 3.12 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 1N, 40 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | MeCN | 20 ml | CC#N | C2H3N
product | 4-(4′-bromobiphenyl-4-yloxy)butyric acid ethyl ester | 4.35 g, 80% | C(C)OC(CCCOC1=CC=C(C=C1)C1=CC=C(C=C1)Br)=O | C18H19BrO3
